US09376441B2
Step 3: 7-(benzyloxy)-5-bromo-1-ethyl-1H-benzo[d]imidazole:
To a solution of 2-(benzyloxy)-4-bromo-N-ethyl-6-nitroaniline (230 mg, 0.66 mmol) in ethanol (10 mL) and formic acid (10 mL) was added iron (731 mg, 13.1 mmol) and the reaction mixture was heated at 90° C. at 2 h. The reaction mixture was concentrated, diluted with water and brought to pH ˜7 with sat′d NaHCO3 and then the aqueous layer was extracted with EtOAc (3×). Combined organic layer was then washed successively with water and brine and dried over anhydrous magnesium sulfate, filtered, evaporated, and dried to give the title compound which was used further without purification. LCMS-ESI+ (m/z): [M+H]+ calcd for C16H16BrN2O: 331.0; found: 331.0.

reactant | 2-(benzyloxy)-4-bromo-N-ethyl-6-nitroaniline | 0.66 mmol, 230 mg | C(C1=CC=CC=C1)OC1=C(NCC)C(=CC(=C1)Br)[N+](=O)[O-] | C15H15BrN2O3
reactant | ethanol | 10 mL | C(C)O | C2H6O
solvent | formic acid | 10 mL | C(=O)O | CH2O2
catalyst | iron | 13.1 mmol, 731 mg | [Fe] | Fe
product | 7-(benzyloxy)-5-bromo-1-ethyl-1H-benzo[d]imidazole | C(C1=CC=CC=C1)OC1=CC(=CC2=C1N(C=N2)CC)Br | C16H15BrN2O
